US06670387B1
a) 1-(3,4-Dimethylphenyl)-3-phenyl-3-pyrazolin-5-one
Following the procedure of Example 22a), except substituting 3,4-dimethylphenylhydrazine for 2-hydrazinopyridine and ethyl benzoylacetate for ethyl acetoacetate, the title compound was prepared (16.0 g; 61%). MS(ES) m/z 265 [M+H].

reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
reactant | ethyl benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | 1-(3,4-Dimethylphenyl)-3-phenyl-3-pyrazolin-5-one | CC=1C=C(C=CC1C)N1NC(=CC1=O)C1=CC=CC=C1 | C17H16N2O
